US04786311
N-[(4-Methoxy-6-methyl-1,3,5-triazin-2-yl)aminocarbonyl]-2-(5-methyl-1H-tetrazol-1-yl)benzenesulfonamide
To 0.48 g of 1-(2-aminosulfonylphenyl)-5-methyl-1H-tetrazole and 0.52 g of phenyl N-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)carbamate in 25 mL of acetonitrile at ambient temperature and pressure was added 0.3 mL of DBU. The mixture was stirred for three hours and then added to 25 g of ice and acidified with hydrochloric acid. The precipitate thus obtained was filtered, washed with water and dried in vacuo to yield 0.65 g of the desired product melting at 207°-209° C. Infrared absorption spectra showed absorption at 1700, 1600 and 1550 cm-1, consistent for the desired structure.

reactant | 1-(2-aminosulfonylphenyl)-5-methyl-1H-tetrazole | 0.48 g | NS(=O)(=O)C1=C(C=CC=C1)N1N=NN=C1C | C8H9N5O2S
reactant | phenyl N-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)carbamate | 0.52 g | COC1=NC(=NC(=N1)C)NC(OC1=CC=CC=C1)=O | C12H12N4O3
reactant | DBU | 0.3 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | N-[(4-Methoxy-6-methyl-1,3,5-triazin-2-yl)aminocarbonyl]-2-(5-methyl-1H-tetrazol-1-yl)benzenesulfonamide | 0.65 g | COC1=NC(=NC(=N1)C)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)N1N=NN=C1C | C14H15N9O4S
